US07820821B2
To a solution of 1-bromo-2-cyclohexyl-benzene (5 mmol) in dioxane (20 mL) was added solid Pd(OAc)2 (0.1 g) and solid CsCO3 (10 mmol). tert-Butyl carbamate (7 mmol) was added to the reaction mixture, and the contents were heated at 80° C. for 2 h. The reaction mixture was cooled to room temperature and filtered through Celite. The solvent was removed in vacuo and the residue obtained was purified by flash column chromatography using DCM as eluant to yield (2-cyclohexylphenyl)-carbamic acid tert-butyl ester.

reactant | 1-bromo-2-cyclohexyl-benzene | 5 mmol | BrC1=C(C=CC=C1)C1CCCCC1 | C12H15Br
reactant | tert-Butyl carbamate | 7 mmol | C(N)(OC(C)(C)C)=O | C5H11NO2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.1 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (2-cyclohexylphenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)C1CCCCC1)=O | C17H25NO2
